US04861769
To a solution of 7β-[2-(2-aminothiazol-4-yl)-2(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylic acid hydrogen sulfate (syn isomer) (3 g) in water (100 ml) was portionwise added sodium borohydride (1.9 g) under ice-cooling, keeping the pH of the reaction mixture at 6.5-7.0 with 1N hydrochloric acid. The mixture was stirred at the same condition for 2.5 hours. The mixture was adjusted to pH 2.5 with 6N hydrochloric acid and subjected to column chromatography on a non-ionic adsorption resin "Diaion HP-20" (90 ml). After the column was washed with water (630 ml), the elution was carried out with 20% methanol. The fractions containing the object compound were combined, concentrated in vacuo to about 100 ml, and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2(cyclopropyloxyimino)acetamido]-3-(1,2,3,6-tetrahydropyridin-1-yl)methyl-3-cephem-4-carboxylic acid (syn isomer) (0.35 g).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylic acid hydrogen sulfate | 3 g | S(=O)(=O)(O)[O-].NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O)=NOC1CC1
reactant | sodium borohydride | 1.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2(cyclopropyloxyimino)acetamido]-3-(1,2,3,6-tetrahydropyridin-1-yl)methyl-3-cephem-4-carboxylic acid | 0.35 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CN2CCC=CC2)C(=O)O)C1=O)=NOC1CC1 | C21H24N6O5S2
